US04794110
11-(N-Ethoxycarbonyl-N-methylaminomethyl)-5-phenyl-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine
To a mixture of 11-dimethylaminomethyl-5-phenyl-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine (9.92 g) and potassium carbonate (4.28 g) in 150 ml of benzene was added ethyl chloroformate (5.9 ml). This was heated at 65° C. for 6 hours, then added to water and extracted with ethyl ether (4×). The combined organics were washed with water, dried and concentrated to give 10.5 g of an oil which was used without further purification.

reactant | 11-dimethylaminomethyl-5-phenyl-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine | 9.92 g | CN(C)CC1OC2=C(C(N3C1=CC=C3)C3=CC=CC=C3)C=CC=C2 | C21H22N2O
reactant | potassium carbonate | 4.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl chloroformate | 5.9 ml | ClC(=O)OCC | C3H5ClO2
reactant | water | O | H2O
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 11-(N-Ethoxycarbonyl-N-methylaminomethyl)-5-phenyl-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine | 10.5 g | C(C)OC(=O)N(C)CC1OC2=C(C(N3C1=CC=C3)C3=CC=CC=C3)C=CC=C2 | C23H24N2O3
